US05811459
A mixture of N-(2-(3-pyridyl)ethyl)-4-[3-(2-benzyloxyphenyl) propyl]benzamide(1 g) and ethyl iodide (0.54 g) was stirred in DMF (5 ml) at 100° C. for 4 hours. The solvent was evaporated and the residue crystallised from ethyl acetate to give 1-ethyl-3-[2-(4-[3-(2-benzyloxyphenyl)propyl]benzylamino)ethyl]pyridinium iodide (463 mg); mpt 89° C.

reactant | N-(2-(3-pyridyl)ethyl)-4-[3-(2-benzyloxyphenyl) propyl]benzamide | 1 g | N1=CC(=CC=C1)CCNC(C1=CC=C(C=C1)CCCC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C30H30N2O2
reactant | ethyl iodide | 0.54 g | C(C)I | C2H5I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-3-[2-(4-[3-(2-benzyloxyphenyl)propyl]benzylamino)ethyl]pyridinium iodide | 463 mg | [I-].C(C)[N+]1=CC(=CC=C1)CCNCC1=CC=C(C=C1)CCCC1=C(C=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C32H37N2O.HI/c1-2-34-23-9-13-29(25-34)21-22-33-24-28-19-17-27(18-20-28)12-8-15-31-14-6-7-16-32(31)35-26-30-10-4-3-5-11-30;/h3-7,9-11,13-14,16-20,23,25,33H,2,8,12,15,21-22,24,26H2,1H3;1H/q+1;/p-1
